US04704459
In 2.5 ml of phosphorus oxychloride was suspended 500 mg of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-methoxy-4-oxo-1,8-naphthyridine-3-carboxylate, and the resulting suspension was subjected to reaction under reflux for 1.5 hours. Subsequently, the solvent was removed by distillation under reduced pressure, and the crystalline material thus obtained was washed with 10 ml of diethyl ether to obtain 430 mg (yield 85.0%) of ethyl 7-chloro-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate having a melting point of 216°-219° C. The physical properties of this compound were identical with those of the compound obtained in Example 51.

reactant | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-methoxy-4-oxo-1,8-naphthyridine-3-carboxylate | 500 mg | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)OC)F)=O)C(=O)OCC | C18H13F3N2O4
reactant | phosphorus oxychloride | 2.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 7-chloro-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 430 mg, yield 85.0% | ClC1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C17H10ClF3N2O3
